US07312343B2
(1S,2S)-(1-Formyl-2-methyl-butyl)-methyl-carbamic Acid tert-butyl Ester
To a solution of 37.0 g Boc-N-methyl-isoleucinol (160 mmol) in 160 ml dichloromethane was added a solution of 5.4 g NaHCO3 (64 mmol) and 1.9 g KBr (16 mmol) in 160 ml deionized water. The reaction mixture was cooled to 0° C. and after the addition of 125 mg 2,2,6,6-tetramethyl-piperidin-1-oxyl (TEMPO, 0.8 mmol), 122.6 g 10.2% aqueous sodium hypochlorite (176 mmol Cl2) were added under stirring over 2.5 h at 0-5°. After additional stirring for 30 min the excess of NaOCl was destroyed by the addition of ca. 1 ml 38% aqueous sodium bisulfite and the reaction mixture was warmed up to 20°. The aqueous layer was extracted with 160 ml dichloromethane and the organic layers were washed with 10% brine and dried (Na2SO4). Removal of the solvent by rotary evaporation afforded 35.7 g (97.2%) crude product as a light orange oil.

reactant | Boc-N-methyl-isoleucinol | 160 mmol, 37.0 g | C(=O)(OC(C)(C)C)N([C@@H]([C@@H](C)CC)CO)C | C12H25NO3
reactant | NaHCO3 | 64 mmol, 5.4 g | C(=O)(O)[O-].[Na+]
reactant | KBr | 16 mmol, 1.9 g | [K+].[Br-]
reactant | sodium hypochlorite | 176 mmol, 122.6 g | Cl[O-].[Na+]
reactant | NaOCl | [O-]Cl.[Na+]
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (1S,2S)-(1-Formyl-2-methyl-butyl)-methyl-carbamic Acid tert-butyl Ester | 35.7 g, 97.2% | C(C)(C)(C)OC(N(C)[C@@H]([C@H](CC)C)C=O)=O | C12H23NO3
